US05578596
300 mg (2 mmol) of 2-hydroxy-5,6,7,8-tetrahydroquinoxaline was dissolved in 5 ml of DMF, and 360 μl (2.4 mmol) of 1,8-diazabicyclo[5.4.0]undeca-7-ene (DBU) and 277 μl (2.4 mmol) of 1-bromo-4-chlorobutane were added thereto. The resultant mixture was stirred with heating at 60° C. for 22 hours to effect a reaction. The DMF in the resultant reaction mixture was distilled off in vacuo to thereby obtain a residue. An aqueous solution of potassium carbonate was added to the obtained residue, followed by extraction with chloroform to obtain an extract. The extract was dried over sodium sulfate anhydride, and subjected to filtration to thereby obtain a filtrate. The solvent of the filtrate was distilled off to thereby obtain a residue. The obtained residue was purified by silica gel column chromatography. That is, the residue was charged in a column of 20 g of silica gel (Art7734, manufactured and sold by E. Merck, Darmstadt) and eluted with chloroform, to thereby obtain 263 mg of 2-(4-chlorobutoxy)-5,6,7,8-tetrahydroquinoxaline (yield: 54.7%).

reactant | 2-hydroxy-5,6,7,8-tetrahydroquinoxaline | 2 mmol, 300 mg | OC1=NC=2CCCCC2N=C1 | C8H10N2O
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 2.4 mmol, 360 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-bromo-4-chlorobutane | 2.4 mmol, 277 μl | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(4-chlorobutoxy)-5,6,7,8-tetrahydroquinoxaline | 263 mg, yield: 54.7% | ClCCCCOC1=NC=2CCCCC2N=C1 | C12H17ClN2O
